US05212042
Then, 39 g of 3-(n-octyloxy)-4-(p-toluenesulfonyl)aminoaniline was dissolved in a mixed solution of 300 ml of methanol and 25.3 ml of concentrated hydrochloric acid. The solution was cooled to -10° to -5° C., and a solution of 6.9 g of sodium nitrite in 14 ml of water was added thereto in several seconds and, after 10 minutes, 18.5 g of powdery potassium hexafluorophosphate was added thereto. Thereafter, 150 ml of water was dropwise added thereto over about 30 minutes, and the resulting mixture was stirred for about one hour while keeping the internal temperature at about 5° C. 3-(n-Octyloxy)-4-(p-toluene-sulfonyl)aminobenzenediazonium hexafluorophosphate precipitated as crystals was filtered out, and washed with a mixed solvent of methanol-water to obtain 48.4 g of 3-(n-octyloxy)-4-(p-toluenesulfonyl)aminobenzenediazonium hexafluorophosphate.

reactant | 3-(n-octyloxy)-4-(p-toluenesulfonyl)aminoaniline | 39 g | C(CCCCCCC)OC=1C=C(N)C=CC1NS(=O)(=O)C1=CC=C(C=C1)C | C21H30N2O3S
reactant | sodium nitrite | 6.9 g | N(=O)[O-].[Na+]
reactant | potassium hexafluorophosphate | 18.5 g | F[P-](F)(F)(F)(F)F.[K+]
solvent | methanol | 300 ml | CO | CH4O
solvent | hydrochloric acid | 25.3 ml | Cl | ClH
solvent | water | 14 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 3-(n-octyloxy)-4-(p-toluenesulfonyl)aminobenzenediazonium hexafluorophosphate | 48.4 g | F[P-](F)(F)(F)(F)F.C(CCCCCCC)OC=1C=C(C=CC1NS(=O)(=O)C1=CC=C(C=C1)C)[N+]#N | InChI=1S/C21H28N3O3S.F6P/c1-3-4-5-6-7-8-15-27-21-16-18(23-22)11-14-20(21)24-28(25,26)19-12-9-17(2)10-13-19;1-7(2,3,4,5)6/h9-14,16,24H,3-8,15H2,1-2H3;/q+1;-1
